2189-01-24 07:52:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint:Respiratory Distress
   .
   Reason for MICU admission: Hypoxia, tachypnea
   24 Hour Events:
   [**2189-1-23**]
   - Echo report: IMPRESSION: Moderately dilated and mildly hypokinetic
   right ventricle. Moderate to severe tricuspid regurgitation. Severe
   pulmonary hypertension. Preserved left ventricular global systolic
   function. Elevated estimated filling pressures.
   - Had long conversation with pt
s HCP who said she does not want any
   invasive procedures that would prolong her life.
   - Pt with persistent hypoglycemia not responsive to juice and dextrose.
   Checked TSH and random [**Last Name (un) **] which were wnl
   - Pt was negative 2L by MN
   - PM lytes stable
   - Pt became very agitated, screaming, crying, pulled out tele, IV line,
   was given haldol 2mg IM ONCE which calmed her down for 2 hours.
   -Cooperated with receiving a second IV, got agitated again and received
   another dose of haldol at 1am
   -Again agitated, at 2:30am, received 4mg haldol
   -Also zyprexa increased to 5mg [**Hospital1 **] and recieved 5mg additional zyprexa
   at night
   -QTC on 12 lead was 460 after all these doses
   - Increased zyprexa from 2.5mg PO BID to 5mg PO BID
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2189-1-24**] 03:01 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2189-1-23**] 05:02 PM
   Furosemide (Lasix) - [**2189-1-23**] 09:02 PM
   Haloperidol (Haldol) - [**2189-1-24**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-24**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 94 (91 - 107) bpm
   BP: 132/85(93) {104/35(56) - 178/117(121)} mmHg
   RR: 18 (12 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 79 kg
   Height: 60 Inch
             Total In:
                                                                    123 mL
                                                                    126 mL
   PO:
             TF:
   IVF:
                                                                     73 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  2,525 mL
                                                                  1,200 mL
   Urine:
                                                                  2,525 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,402 mL
                                                                 -1,074 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///42/
   Physical Examination
   GEN: Much more coherent this AM, AOx3, NAD
   CV: Tachycardic, RR, no RMG, JVD elevated almost to jaw
   PULM: CTAB, diffuse expiratory wheezes, no RR
   ABD: Soft, NTND, +BS obese
   EXT: 1+ pedal edema
   Labs / Radiology
   220 K/uL
   9.7 g/dL
   130 mg/dL
   1.2 mg/dL
   42 mEq/L
   3.9 mEq/L
   25 mg/dL
   102 mEq/L
   148 mEq/L
   33.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2189-1-23**]  03:30 PM
                             [**2189-1-24**]  03:31 AM
   WBC
   9.2
   Hct
   33.0
   Plt
   220
   Cr
   1.1
   1.2
   TropT
   0.09
   Glucose
   65
   130
   Other labs: CK / CKMB / Troponin-T:45/3/0.09, Differential-Neuts:84.9
   %, Lymph:7.4 %, Mono:5.6 %, Eos:2.1 %, Ca++:10.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.5 mg/dL
   Imaging: [**2189-1-23**] Radiology US ABD LIMIT, SINGLE
   IMPRESSION: Small pocket of ascites in the right lower quadrant.
   [**2189-1-23**] CHEST (PORTABLE AP)
   FINDINGS: In comparison with the study of [**1-22**], the patient has taken a
   somewhat better inspiration. There is little overall change in the
   cardiomegaly with elevated pulmonary venous pressure and right-sided
   effusion and post-surgical changes in the right upper lobe.
   [**2189-1-23**] ECHO:
   The left atrium is elongated. The right atrium is markedly dilated.
   Left ventricular wall thicknesses and cavity size are normal. Due to
   suboptimal technical quality, a focal wall motion abnormality cannot be
   fully excluded. Overall left ventricular systolic function is low
   normal (LVEF 50-55%). The estimated cardiac index is normal
   (>=2.5L/min/m2). Tissue Doppler imaging suggests an increased left
   ventricular filling pressure (PCWP>18mmHg). The right ventricular
   cavity is moderately dilated with mild global free wall hypokinesis.
   [Intrinsic right ventricular systolic function is likely more depressed
   given the severity of tricuspid regurgitation.] There is abnormal
   septal motion/position consistent with right ventricular
   pressure/volume overload. The aortic valve leaflets (3) are mildly
   thickened. There is a minimally increased gradient consistent with
   minimal aortic valve stenosis. No aortic regurgitation is seen. The
   mitral valve leaflets are mildly thickened. There is no mitral valve
   prolapse. Moderate to severe [3+] tricuspid regurgitation is seen.
   There is severe pulmonary artery systolic hypertension.
   IMPRESSION: Moderately dilated and mildly hypokinetic right ventricle.
   Moderate to severe tricuspid regurgitation. Severe pulmonary
   hypertension. Preserved left ventricular global systolic function.
   Elevated estimated filling pressures.
   Microbiology: [**2189-1-22**]  URINE URINE CULTURE-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), BREAST
 HYPOXEMIA
 DEPRESSION
 DELIRIUM / CONFUSION
 HYPERTENSION, BENIGN
 HYPOGLYCEMIA
   78 yo F with h/o COPD, lung ca s/p lobectomy, breast CA s/p lumpectomy
   who presents with altered mental status and new hypercarbic/hypoxic
   respiratory failure.
   .
   # Hypercarbic/Hypoxic Respiratory Failure: Multiple possible etiologies
   including moderate right pleural effusion, bilateral opacities and
   elevated WBC raising suspicion for infectious process, total body
   overload and cardiomegaly concerning for acute heart failure. Give
   tachycardia and hypoxia, PE also a possibility. Also consider less
   likely causes such as malginancy to account for effusion and bilateral
   opacities. Hypoglycemic episodes likely contributing to episode of
   hypercarbia. No e/o acute MI, likely had a small troponin leak related
   to demand ischemia. BNP supports acute CHF but I suspect she is total
   volume up but intravascularly deplete given ARF and elevated bicarb.
   - Continue diuresis more gently, goal negative of 500cc with smaller
   lasix boluses, if cr unable to tolerate consider small lasix gtt
   - standing ipratropium nebs Q6H, albuterol Q2H prn SOB, wheezing,
   tachypnea
   - continue vanc/cefepime for empiric coverage of HCAP for 8 day course
   (start date [**2189-1-23**])
   - f/u urine cultures, no blood cx drawn
   - Pt
s healthcare proxy refusing thoracentesis
   - CTA chest to r/o PE given evidence of right sided strain on echo and
   now persistent tachycardia and hypoxia
   - attempt to wean O2, though still hypoxic at present
   .
   # Hypoglycemia/Type II DM with complications
 Improving. Was on lantus
   70units at NH, last does >24 hours prior to admission to ICU and
   remains hypoglycemic to 60s. Unclear if there has been a recent med
   change. Question if related to infectious process, NPO, insulin
   producing malignancy. No acute renal failure to explain decrease
   insulint requirement.
   - hold long acting insulin for now, cover with humalog sliding scale
   .
   # Right Breast Mass and skin changes - concerning for inflammatory
   breast ca vs breast CA relapse. Did have right cyst on [**Last Name (un) **] from [**5-13**]
   with plan for 6 month f/u given comorbidities
   - once stable obtain diagnostic mammography
   .
   # Abdominal Distention - Patient complaining of increasing abdominal
   girth x2 months. Abdominal U/S c/w small pocket of ascites possibly
   related to heart failure.
   - AB US to eval for ascites
   - check LFTs
 wnl except for AP and LDH
   - Monitor for worsening.
   - Invasive work up inconsistent with patient
s goals of care
   .
   # Delirium on dementia/Depression/Anxiety: Pt with significant
   sundowning last night.  Appears to be an acute change prompting
   presentation to ED in setting of progressive decline over the past two
   months, most notably over the past two weeks. Etiology likely toxic
   metabolic. Does have intermittent SI.
   - Obtain CT head
   - Will continue antibiotics, treatment as above for repiratory failure
   - Talk with psychiatry re better strategy to manage sundowning
   - Haldol PRN
   - Daily EKGs to monitor QTc
   - Continue outpatient regiment pending psychiatry recommendations
   - hold QHS benzo given delirium,
   - increase olanzapine from 2.5gm PO BID to 5mg PO BID
    .
   # Hypertension:
   - switch long acting Dilt to short acting
   - hold Lisinopril given ARF
   # ARF: likely from intravascular volume depletion from lasix, supported
   by BUN/cr ratio
   - Back off on intensity of diuresis
   .
   # FEN: No IVF, replete electrolytes, can eat now that respiratory
   status improved
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals
   .
   # Code:  DNR/DNI -confirmed with pt and HCP
   .
   # Communication: Patient and HCP
   .
   # Disposition: pending clinical improvement
   .
   ICU Care
   Nutrition:
   Comments: Diabetic/cardiac healthy diet
   Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2189-1-23**] 08:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: not necessary
   VAP:
   Comments:
   Communication: Patient and patient
s HCP [**Name (NI) **] [**Name (NI) 11092**] [**Telephone/Fax (1) 11093**]
   Code status: DNR / DNI
   Disposition: ICU

2189-01-24 10:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo female with DM2, COPD on 2 liters oxygen, HTN; hx of breast CA
   with recurrent breast mass
   From [**Hospital1 69**] with AMS and suicidal ideation - admitted to floor and Rx'd
   for [**Hospital 1644**]
   Transferred to [**Hospital Unit Name 10**] with hypoglycemia, acute respiratory distress
   So far,  given nebs, diuresis with some improvement
   Frequent agitation requiring zyprexa and haldol
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2189-1-24**] 03:01 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2189-1-23**] 05:02 PM
   Furosemide (Lasix) - [**2189-1-23**] 09:02 PM
   Haloperidol (Haldol) - [**2189-1-24**] 03:30 AM
   Other medications:
   atrovent, trazodone, fluticasone, vit D, hep SQ, Ca carbonate,
   diltiazem, lisinopril, SSI, cefipime, zyprexa 5 mg [**Hospital1 **], haldol prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-24**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.6
C (96.1
   HR: 102 (91 - 107) bpm
   BP: 159/103(112) {104/35(56) - 178/117(121)} mmHg
   RR: 21 (12 - 32) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77 kg (admission): 79 kg
   Height: 60 Inch
             Total In:
                                                                    123 mL
                                                                    146 mL
   PO:
             TF:
   IVF:
                                                                     73 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                  2,525 mL
                                                                  1,200 mL
   Urine:
                                                                  2,525 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,402 mL
                                                                 -1,054 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///42/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  normal turgor, warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Lungs
   CV RRR
   Abd soft, obese, nt
   Ext tr-1+ edema
   Skin no rashes
   Labs / Radiology
   9.7 g/dL
   220 K/uL
   130 mg/dL
   1.2 mg/dL
   42 mEq/L
   3.9 mEq/L
   25 mg/dL
   102 mEq/L
   148 mEq/L
   33.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2189-1-23**]  03:30 PM
                             [**2189-1-24**]  03:31 AM
   WBC
   9.2
   Hct
   33.0
   Plt
   220
   Cr
   1.1
   1.2
   TropT
   0.09
   Glucose
   65
   130
   Other labs: CK / CKMB / Troponin-T:45/3/0.09, Differential-Neuts:84.9
   %, Lymph:7.4 %, Mono:5.6 %, Eos:2.1 %, Ca++:10.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.5 mg/dL
   Fluid analysis / Other labs: TSH and random cortisol wnl
   BNP 4000's
   Imaging: Echo: RV strain with severe pulmonary HTN, preserved LV
   function, moderate to severe TR, elevated LV filling pressures
   Abd US: small pocket of fluid in lower quadrant
   ECG: Qtc 460
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), BREAST
 HYPOXEMIA
 DEPRESSION
 DELIRIUM / CONFUSION
 HYPERTENSION, BENIGN
 HYPOGLYCEMIA
   78 yo female with DM2, COPD on 2 liters oxygen, HTN
   Admitted with PNA, respiratory distress, altered mental status
   1.       Hypoxia/acute respiratory distress:
   Felt to have PNA, effusion/pulmonary edema -  improvt after diuresis
   but still with hypoxia
   Pulmonary HTN/RV strain could be left sided/diastolic failure as pt has
   high LV filling pressures- however still need to rule out PE. CTA will
   also allow us to better visualize lung parenchyma. Predmedicate with
   mucomyst
   If unable to get CTA, can check dopplers
   Cont Vanc and Cefipime for presumed HAP, nebulizers
   2.       Altered mental status: improved currently, but management a
   problem overnight. On zyprexa and haldol, will discuss further
   medications with psych. Plan head CT
   3.       Volume status: remains  volume overloaded; plan -500-1000cc
   over the next 24 hours
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-23**] 08:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent: 40 minutes
   Patient is critically ill

2189-01-25 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CT head: no acute ICP, e/o moderate chronic microvascular disease
   - CTA:
   1. No PE or acute aortic pathology.
   2. Large R pleural effusion. Small L pleural effusion.
   3. Dense material in the consolidated/collapsed RLL, ? aspiration vs
   PNA.
   - had episode of respiratory distress, pulling off mask, desats to 70s,
   improved with nebs
   - sugars stable, stopped Q1h checks
   - Agitated overnight and pulled out foley
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-1-24**] 08:18 PM
   Cefipime - [**2189-1-25**] 05:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-1-25**] 12:22 AM
   Morphine Sulfate - [**2189-1-25**] 01:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-25**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 95 (87 - 110) bpm
   BP: 128/94(101) {85/28(40) - 169/6,237(112)} mmHg
   RR: 25 (13 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.8 kg (admission): 79 kg
   Height: 60 Inch
             Total In:
                                                                    367 mL
                                                                    120 mL
   PO:
             TF:
   IVF:
                                                                    367 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    160 mL
   Urine:
                                                                  1,740 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,373 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///39/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   225 K/uL
   10.0 g/dL
   246 mg/dL
   1.4 mg/dL
   39 mEq/L
   4.3 mEq/L
   27 mg/dL
   102 mEq/L
   146 mEq/L
   33.5 %
   9.9 K/uL
        [image002.jpg]
                             [**2189-1-23**]  03:30 PM
                             [**2189-1-24**]  03:31 AM
                             [**2189-1-24**]  05:20 PM
                             [**2189-1-25**]  03:45 AM
   WBC
   9.2
   9.9
   Hct
   33.0
   33.5
   Plt
   220
   225
   Cr
   1.1
   1.2
   1.0
   1.4
   TropT
   0.09
   Glucose
   65
   130
   146
   246
   Other labs: CK / CKMB / Troponin-T:45/3/0.09, Differential-Neuts:84.9
   %, Lymph:7.4 %, Mono:5.6 %, Eos:2.1 %, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.6 mg/dL
   Imaging: CT Head:
   No acute intracranial process. Moderate chronic microvascular ischemic
   disease.
   CTA Chest:
   1. No PE or acute aortic pathology.
   2. Large R pleural effusion. Small L pleural effusion.
   3. Dense material in the consolidated/collapsed RLL, ? aspiration vs
   PNA.
   CXR:
   There is continued evidence of
   pulmonary vascular congestion and a small right effusion. There is
   increased
   streaky density at the right base consistent with subsegmental
   atelectasis.
   The heart appears enlarged as before. The aorta is tortuous and
   calcified.
   Compared with the previous study there is little interval change.
   US Abdomen:
   Direct son[**Name (NI) 330**] examinations were performed on the four abdominal
   quadrants. There is a small pocket of ascites in the right lower
   quadrant,
   measuring approximately 3.8 x 2.6 cm (AP x TRV). A trace amount of
   fluid is
   noted in the deep pelvis. Limited views of the kidneys demonstrate no
   evidence of hydronephrosis.
   Echo:
   Moderately dilated and mildly hypokinetic right ventricle. Moderate to
   severe tricuspid regurgitation. Severe pulmonary hypertension.
   Preserved left ventricular global systolic function. Elevated estimated
   filling pressures.
   Microbiology:    URINE CULTURE (Final [**2189-1-24**]):
         GRAM POSITIVE BACTERIA.    10,000-100,000 ORGANISMS/ML..
            Alpha hemolytic colonies consistent with alpha streptococcus
   or
            Lactobacillus sp.
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), BREAST
 HYPOXEMIA
 DEPRESSION
 DELIRIUM / CONFUSION
 HYPERTENSION, BENIGN
 HYPOGLYCEMIA
   78 yo F with h/o COPD, lung ca s/p lobectomy, breast CA s/p lumpectomy
   who presents with altered mental status and new hypercarbic/hypoxic
   respiratory failure.
   .
   # Hypercarbic/Hypoxic Respiratory Failure: Multifactorial, CXR w/
   opacities and leukocytosis on admission, suspicion for infectious
   process.  Echo also notable for moderate pulmonary hypertension with
   RHF.  No evidence of PE on echo. Also consider less likely causes such
   as malginancy to account for effusion and bilateral opacities.
   Hypoglycemic episodes likely contributing to episode of hypercarbia. No
   e/o acute MI, likely had a small troponin leak related to demand
   ischemia.
   - Continue diuresis more gently, goal negative of 500cc with smaller
   lasix boluses, if cr unable to tolerate consider small lasix gtt
   - standing ipratropium nebs Q6H, albuterol Q2H prn SOB, wheezing,
   tachypnea
   - continue vanc/cefepime for empiric coverage of HCAP for 8 day course
   (start date [**2189-1-23**])
   - f/u urine cultures, no blood cx drawn
   - Pt
s healthcare proxy refusing thoracentesis
   - F/u final read CTA
   - Wean O2
   .
   # CHF: Echo w/ RHF and pulm HTN, and evidence of ascites on abdominal
   US. left sided/diastolic failure
   - bb
   - ace-i
   - statin
   - lasix
   .
   # Hypoglycemia/Type II DM with complications
 Improving. Was on lantus
   70units at NH, last does >24 hours prior to admission to ICU and
   remains hypoglycemic to 60s. Unclear if there has been a recent med
   change. Question if related to infectious process, NPO, insulin
   producing malignancy.
   - hold long acting insulin for now, cover with humalog sliding scale
   .
   # Right Breast Mass and skin changes - concerning for inflammatory
   breast ca vs breast CA relapse. Did have right cyst on [**Last Name (un) **] from [**5-13**]
   with plan for 6 month f/u given comorbidities
   - once stable obtain diagnostic mammography
   .
   # Abdominal Distention
 Ab US w/ evidence of ascites likely related to
   HF in the absence of transaminitis.
   - Monitor for worsening.
   - Invasive work up inconsistent with patient
s goals of care
   .
   # Delirium on dementia/Depression/Anxiety: Pt with significant
   sundowning last night.  Appears to be an acute change prompting
   presentation to ED in setting of progressive decline over the past two
   months, most notably over the past two weeks. Etiology likely toxic
   metabolic. Does have intermittent SI.
   - Obtain CT head
   - Will continue antibiotics, treatment as above for repiratory failure
   - Talk with psychiatry re better strategy to manage sundowning
   - Haldol PRN
   - Daily EKGs to monitor QTc
   - Continue outpatient regiment pending psychiatry recommendations
   - hold QHS benzo given delirium,
   - increase olanzapine from 2.5gm PO BID to 5mg PO BID
    .
   # Hypertension:
   - switch long acting Dilt to short acting
   - hold Lisinopril given ARF
   # ARF: likely from intravascular volume depletion from lasix, supported
   by BUN/cr ratio
   - Back off on intensity of diuresis
   .
   # FEN: No IVF, replete electrolytes, can eat now that respiratory
   status improved
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals
   .
   # Code:  DNR/DNI -confirmed with pt and HCP
   .
   # Communication: Patient and HCP
   .
   # Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-24**] 10:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2189-01-26 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2189-1-25**] 06:11 PM
   - increasing o2 requirement 70% fio2 after ivfs- abg 7.36 71 151 42
   (looked like acute resp process); cxr unchanged. Gave 40mg iv lasix ->
   o2 requirement reduced to 4L. Set goal of o2 sats 90-92%.
   - pt very anxious and tachypneic with some improvement w/ iv morphine,
   haldol, olanzapine
   - C/o abdominal pain, that improved with bowel movement.
   - pt. having diarrhea overnight, ordered stool for C. diff.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-1-24**] 08:18 PM
   Cefipime - [**2189-1-26**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-1-25**] 04:00 PM
   Haloperidol (Haldol) - [**2189-1-26**] 04:00 AM
   Morphine Sulfate - [**2189-1-26**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-26**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.5
C (97.7
   HR: 104 (89 - 109) bpm
   BP: 123/98(104) {97/27(45) - 143/98(116)} mmHg
   RR: 29 (20 - 34) insp/min
   SpO2: 82%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.3 kg (admission): 79 kg
   Height: 60 Inch
             Total In:
                                                                  1,290 mL
                                                                    127 mL
   PO:
             TF:
   IVF:
                                                                  1,290 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                    160 mL
                                                                      0 mL
   Urine:
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,130 mL
                                                                    127 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 82%
   ABG: 7.35/70/62/35/9
   PaO2 / FiO2: 62
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   218 K/uL
   9.8 g/dL
   205 mg/dL
   1.2 mg/dL
   35 mEq/L
   4.8 mEq/L
   30 mg/dL
   101 mEq/L
   146 mEq/L
   33.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2189-1-23**]  03:30 PM
                             [**2189-1-24**]  03:31 AM
                             [**2189-1-24**]  05:20 PM
                             [**2189-1-25**]  03:45 AM
                             [**2189-1-25**]  12:00 PM
                             [**2189-1-25**]  03:02 PM
                             [**2189-1-25**]  06:21 PM
                             [**2189-1-25**]  08:00 PM
                             [**2189-1-25**]  09:59 PM
                             [**2189-1-26**]  05:05 AM
   WBC
   9.2
   9.9
   10.9
   Hct
   33.0
   33.5
   33.3
   Plt
   220
   225
   218
   Cr
   1.1
   1.2
   1.0
   1.4
   1.1
   1.2
   TropT
   0.09
   TCO2
   42
   40
   Glucose
   65
   130
   146
   246
   181
   196
   247
   205
   Other labs: CK / CKMB / Troponin-T:45/3/0.09, Differential-Neuts:84.9
   %, Lymph:7.4 %, Mono:5.6 %, Eos:2.1 %, Lactic Acid:0.6 mmol/L, Ca++:9.8
   mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), BREAST
 HYPOXEMIA
 DEPRESSION
 DELIRIUM / CONFUSION
 HYPERTENSION, BENIGN
 HYPOGLYCEMIA
   78 yo F with h/o COPD, lung ca s/p lobectomy, breast CA s/p lumpectomy
   who presents with altered mental status and new hypercarbic/hypoxic
   respiratory failure.
   .
   # Hypercarbic/Hypoxic Respiratory Failure: Most likely [**1-6**] acute on
   chronic heart failure, with concominent COPD. CXR w/ opacities and
   leukocytosis on admission, also suspicion for infectious process.  Echo
   also notable for moderate pulmonary hypertension with RHF.  No evidence
   of PE on CTA.
   - Lasix 60 IV ONCE then gtt if IV access allowed
   - Standing short-acting nebs
   - Cont vanc/cefepime for empiric coverage of HCAP for 8 day course
   (start date [**2189-1-23**])
   - F/u final read CTA
   - Wean O2 (on 2L nc at home)
   - [**Hospital1 **] lytes
   .
   # CHF: Acute on chronic diastolic CHF. Echo w/ RHF and pulm HTN, and
   evidence of ascites on abdominal US.
   - holding ace-I given elevated Cr
   - continue statin
   - lasix gtt
   .
   # Hypoglycemia/Type II DM with complications
 Improving. Was on lantus
   70units at NH.
   - hold long acting insulin for now, cover with humalog sliding scale
   .
   # Right Breast Mass and skin changes - concerning for inflammatory
   breast ca vs breast CA relapse. Did have right cyst on [**Last Name (un) **] from [**5-13**]
   with plan for 6 month f/u given comorbidities
   - once stable obtain diagnostic mammography
   .
   # Abdominal Distention
 Ab US w/ evidence of ascites likely related to
   HF in the absence of transaminitis.
   - Monitor for worsening.
   .
   # Delirium on dementia/Depression/Anxiety: Pt with significant
   sundowning last night.  Delirium likely toxic metabolic, infectious.
   Does have intermittent SI. CT head w/o acute process
   - Continue antibiotics for pna
   - Haldol PRN
   - Daily EKGs to monitor QTc, 0.44 today
   - Cont increased olanzapine 5mg PO BID
   - Holding ativan and avoiding benzos/anticholinergics
   - Continue restraints
    .
   # Hypertension:
   - cont dilt
   - hold Lisinopril given ARF
   - cont asa
   # ARF: likely from intravascular volume depletion from lasix. Also
   received contrast for CTA
   - Hold lasix
   - IVFs
   - mucomyst
   # Hypernatremia, calculate free water defecit
   - D5W
   # Urethral trauma s/p severeal removals of foley with balloon inflation
   ICU Care
   Nutrition: Cardiac healthy
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-26**] 03:31 AM
   Prophylaxis:
   DVT: HSC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU

2189-01-26 11:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo female with DM, COPD on 2 liters oxygen, R sided lung Ca s/p
   resection; admitted with acute respiratory distress and tx
d for HAP,
   volume overload
   1. Acute resp distress from COPD/HAP/volume overload: appears improved,
   remains on Vanc/cefipime for HAP to complete  a 8 day course. Would
   hold off on further diuresis as Cr increasing and CT without
   significant pulmonary edema. On atrovent nebs; will wean oxygen
   2. Acute renal failure: could be from aggressive diuresis; onset
   earlier than would be expected for contrast induced nephropathy. Unable
   to assess volume well as pt pulled out Foley; so would give a fluid
   trial
   In ICU for now, consider transfer to floor later today
   Addendum for afternoon- notified by nurse that pt now complaining of
   respiratory distress with oxygen requirement up to 70% FM.
   Possibilities include pulmonary edema as this developed after a fluid
   bolus; also, aspiration. Will check ABG and also  obtain CXR for
   further evaluation. Keep in ICU due to acute respiratory distress,
   pending clarification/resolution.
   24 Hour Events:
 EKG - At [**2189-1-25**] 06:11 PM
   Worsening respiratory distress and desaturations in setting of IVF
   bolus yesterday, improved with decreased FiO2 requirments with diuresis
   Some component of agitation overnight, improved with haldol
                                       History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-1-24**] 08:18 PM
   Cefipime - [**2189-1-26**] 03:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-1-25**] 04:00 PM
   Morphine Sulfate - [**2189-1-26**] 04:00 AM
   Haloperidol (Haldol) - [**2189-1-26**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2189-1-26**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.2
   HR: 94 (91 - 109) bpm
   BP: 99/59(64) {97/27(45) - 143/98(116)} mmHg
   RR: 21 (18 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.3 kg (admission): 79 kg
   Height: 60 Inch
             Total In:
                                                                  1,290 mL
                                                                    159 mL
   PO:
             TF:
   IVF:
                                                                  1,290 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                    160 mL
                                                                      0 mL
   Urine:
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,130 mL
                                                                    159 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: 7.35/70/62/35/9
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Wheezes :
   scattered end-expiratory)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   218 K/uL
   205 mg/dL
   1.2 mg/dL
   35 mEq/L
   4.8 mEq/L
   30 mg/dL
   101 mEq/L
   146 mEq/L
   33.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2189-1-23**]  03:30 PM
                             [**2189-1-24**]  03:31 AM
                             [**2189-1-24**]  05:20 PM
                             [**2189-1-25**]  03:45 AM
                             [**2189-1-25**]  12:00 PM
                             [**2189-1-25**]  03:02 PM
                             [**2189-1-25**]  06:21 PM
                             [**2189-1-25**]  08:00 PM
                             [**2189-1-25**]  09:59 PM
                             [**2189-1-26**]  05:05 AM
   WBC
   9.2
   9.9
   10.9
   Hct
   33.0
   33.5
   33.3
   Plt
   220
   225
   218
   Cr
   1.1
   1.2
   1.0
   1.4
   1.1
   1.2
   TropT
   0.09
   TCO2
   42
   40
   Glucose
   65
   130
   146
   246
   181
   196
   247
   205
   Other labs: CK / CKMB / Troponin-T:45/3/0.09, Differential-Neuts:84.9
   %, Lymph:7.4 %, Mono:5.6 %, Eos:2.1 %, Lactic Acid:0.6 mmol/L, Ca++:9.8
   mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR:  right pleural effusion, CHF
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), BREAST:  Has breast cysts, patient
   refusing further workup at this time.
 ACUTE RESPIRATORY DISTRESS:  Multifactorial given underlying O2
   dependent COPD with exacerbation in setting of CHF.  On vanco/cefipime
   empirically for HAP.  CXR looks like worsening CHF. Scattered
   expiratory wheeze on exam this morning.  Only getting prn
   bronchodilators.  Will change to round the clock bronchodilators.
   Respiratory status still tenuous, intermittently desaturates to 70's.
   Will continue to monitor in ICU.
 ACUTE RENAL FAILURE:  Cr improved.  Likely prerenal in setting of
   diuresis.  [**Month (only) 11**] benefit from a lasix drip. Will try to replace foley to
   better monitor I/Os.
 DEPRESSION:  Psychiatry following.  No current suicidal ideation.
 DELIRIUM / CONFUSION:  Trying to correct metabolic abnormalities for
   acute delerium superimposed on chronic dementia.  Will discuss
   possibility of starting antidepressant [**Doctor Last Name 23**] with psychiatry for mor
   longterm management of depression.  Continue haldol, check ECGs daily
   to follow QT interval.
 HYPERNATREMIA:  Calculate free water deficit and replace, follow
   serial electrolytes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-26**] 03:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2189-01-27 08:04:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint:Respiratory Distress
   .
   Reason for MICU admission: Hypoxia, tachypnea
   24 Hour Events:
   [**1-26**]
   - Standing albuterol and ipratropium nebs started.
   - Lasix 60mg bolus and drip started.
   - Pysch recs: continue olanzapine and haloperidol with dosage
   adjustments
   - Quetiapine and haloperidol used for agitation.
   - Phone convo with HCP: long conversation with pt
s HCP, would like to
   transition focus of treatment from life-prolonging therapy to
   maximizing quality of life and tx symptoms.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-1-27**] 12:10 AM
   Cefipime - [**2189-1-27**] 03:15 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2189-1-26**] 12:00 PM
   Haloperidol (Haldol) - [**2189-1-26**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2189-1-27**] 12:10 AM
   Morphine Sulfate - [**2189-1-27**] 06:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-1-27**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.4
   HR: 100 (87 - 113) bpm
   BP: 114/60(74) {83/38(52) - 170/87(99)} mmHg
   RR: 16 (15 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.3 kg (admission): 79 kg
   Height: 60 Inch
             Total In:
                                                                  1,286 mL
                                                                    365 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                  1,286 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                    525 mL
                                                                    250 mL
   Urine:
                                                                    525 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    761 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   GEN: Somnolent but responds to voice. Looks tired. Dry MM
   CV: RRR, no RMG
   PULM: CTAB, no WRR anteriorly
   ABD: Soft, NTND, +BS, protuberant
   EXT: 1+ LE edema, L>R
   Labs / Radiology
   242 K/uL
   10.7 g/dL
   200 mg/dL
   1.3 mg/dL
   33 mEq/L
   4.7 mEq/L
   35 mg/dL
   97 mEq/L
   139 mEq/L
   36.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2189-1-24**]  03:31 AM
                             [**2189-1-24**]  05:20 PM
                             [**2189-1-25**]  03:45 AM
                             [**2189-1-25**]  12:00 PM
                             [**2189-1-25**]  03:02 PM
                             [**2189-1-25**]  06:21 PM
                             [**2189-1-25**]  08:00 PM
                             [**2189-1-25**]  09:59 PM
                             [**2189-1-26**]  05:05 AM
                             [**2189-1-27**]  03:54 AM
   WBC
   9.2
   9.9
   10.9
   10.5
   Hct
   33.0
   33.5
   33.3
   36.5
   Plt
   220
   225
   218
   242
   Cr
   1.2
   1.0
   1.4
   1.1
   1.2
   1.3
   TCO2
   42
   40
   Glucose
   130
   146
   246
   181
   196
   247
   205
   200
   Other labs: PT / PTT / INR:12.3/24.8/1.0, CK / CKMB /
   Troponin-T:45/3/0.09, Differential-Neuts:84.9 %, Lymph:7.4 %, Mono:5.6
   %, Eos:2.1 %, Lactic Acid:0.6 mmol/L, Ca++:9.3 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.4 mg/dL
   Imaging: CXR AP [**2189-1-27**]:
   FINDINGS: As compared to the previous radiograph, the clip at the right
   paramediastinal border and the right apical opacity are unchanged. Also
   unchanged are the retrocardiac and left basal parenchymal opacities.
   Newly occurred is a small right-sided pleural effusion. The effusions
   leads to
   local atelectasis at the right lung base.
   The overall moderately enlarged size of the cardiac silhouette is
   unchanged.
   No other interval changes.
   Microbiology: [**2189-1-27**] C DIFF PENDING:
   [**2189-1-22**] 8:20 pm URINE     Site: CATHETER
                               **FINAL REPORT [**2189-1-24**]**
      URINE CULTURE (Final [**2189-1-24**]):
         GRAM POSITIVE BACTERIA.    10,000-100,000 ORGANISMS/ML..
            Alpha hemolytic colonies consistent with alpha streptococcus
   or
            Lactobacillus sp.
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), BREAST
 HYPOXEMIA
 DEPRESSION
 DELIRIUM / CONFUSION
 HYPERTENSION, BENIGN
 HYPOGLYCEMIA
   78 yo F with h/o COPD, lung ca s/p lobectomy, breast CA s/p lumpectomy
   who presents with altered mental status and new hypercarbic/hypoxic
   respiratory failure.
   .
   # Hypercarbic/Hypoxic Respiratory Failure: Most likely [**1-6**] acute on
   chronic heart failure, with concominent COPD exacerbation (at baseline
   patient is a CO2 retainer). CXR w/ opacities and leukocytosis on
   admission, also suspicion for infectious process.  No evidence of PE on
   CTA.
   - Overall, I recommend a change in the focus of her care from
   life-prolonging to quality improving. I do not suspect her hypoxia can
   improve significantly and may be close to her basline, but we can try
   to treat her dyspnea symptoms.
   - Continue Lasix gtt if IV access allowed
   - Standing short-acting nebs
   - Cont vanc/cefepime for empiric coverage of HCAP for 8 day course
   (start date [**2189-1-23**])
   - Wean O2 (on 2L nc at home)
   - [**Hospital1 **] lytes
   - Strict I
s, needs foley
   - Morphine for dyspnea
   - Would prefer to call pt out to floor under the geriatric service,
   then to an extended care facility
   .
   # CHF: Acute on chronic diastolic CHF. Echo w/ RHF and pulm HTN, and
   evidence of ascites on abdominal US.
   - holding ace-I given elevated Cr
   - continue statin
   - lasix gtt
   - Strict I
   .
   # Delirium on dementia/Depression/Anxiety: Improved for time being. Pt
   with significant sundowning.  Delirium likely toxic metabolic,
   infectious over chronic dementia. Does have intermittent SI. CT head
   w/o acute process. Appreciate psych recs greatly. Unfortunately, pt can
   become occasionally belligerent, agitated and has not responded to
   zyprexa 5mg prn x 2, nor to haldol 2mg x 2, therefore would prefer
   using higher doses during acute episodes with daily QTC monitoring.
   - Continue antibiotics for pna
   - Daily EKGs to monitor QTc
   - Change olanzapine to 2.5mg PO TID per psych recs
   - Holding ativan and avoiding benzos/anticholinergics
   - Continue restraints
 consider removing given calmer symptoms
   - Discuss w/ psych re: further management
    .
   # ARF: likely from intravascular volume depletion from lasix. Also
   received contrast for CTA
   - Hold lasix
   - IVFs
   - mucomyst
   # Hypernatremia: Resolved.
   # Urethral trauma s/p several removals of foley with balloon inflation.
   Urology consult placed foley, appreciate their help.
   .
   # Hypoglycemia/Type II DM with complications
 Improved. Was on lantus
   70units at NH.
   - hold long acting insulin for now, cover with humalog sliding scale
   - can likely restart lantus after acute process
   .
   # Hypertension:
   - cont dilt
   - hold Lisinopril given ARF
   - cont asa
   .
   # Right Breast Mass and skin changes - concerning for inflammatory
   breast ca vs breast CA relapse. Did have right cyst on [**Last Name (un) **] from [**5-13**]
   with plan for 6 month f/u given comorbidities
   - once stable obtain diagnostic mammography
   ICU Care
   Nutrition: Cardiac healthy
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-26**] 03:31 AM
   Prophylaxis:
   DVT: HSC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU
   ------ Protected Section ------
   ICU Attending Note
   I saw and examine the patient with the medical ICU team on morning
   rounds.  The assessment and plan was discussed and detailed above in
   Dr. [**Last Name (STitle) 10860**]
s note.  I would emphasize the following.  Patient initiated
   on the lasix drip, foley catheter replaced to better monitor I/Os.
   Remains in slightly positive fluid balance overnight albeit not
   monitoring ideally prior to replacing foley.  Patient notes that she
   feels better this am including improvement in her shortness of breath.
   Benfits from haldol.  Less agitated overnight and very pleasant this
   morning, thanking the team for her care.
   Sitting comfortably in bed at ~ 30 degrees.
   Lungs with basilar crackles, poor inspiratory effort
   Abdomen: soft, not distended, normal bowel sounds
   LE edema 1+ bilateral pedal edema, not clearly assymetric, no cords.
   CXR:  not significantly changed
   Acute on chronic respiratory failure in setting of possible PNA and
   CHF.  Increase lasix, will try to switch to prn dosing rather than
   drip. [**Hospital1 **] electrolytes.  Appreciate psychiatry consultants input, willl
   follow recommendations.
   Will touch base with geriatrics service following her at the nursing
   facility to clarify goals of care going forward given the HCP has
   indicated that she does not wish to have escalation of care beyond the
   level of care she is currently getting.
   Patient is critically ill given tenuous respiratory status pending
   clarification of goals of care
   Time spent:  30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2189-1-27**] 10:54 ------

2189-01-28 07:19:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint:Respiratory Distress
   .
   Reason for MICU admission: Hypoxia, tachypnea
   24 Hour Events:
   [**1-27**]
   - cdiff positive, started flagyl
   - [**Female First Name (un) **] thought [**Hospital **] rehab macu would be good option, will discuss
   with her PCP, [**Name10 (NameIs) **] [**Last Name (STitle) 11167**] who works at [**Hospital **] rehab
   - extremely somnolent, not arousing to sternal rub or ABG, which was
   unchanged at 7.35/70/72. When RN went in to [**Name8 (MD) **] RN care she woke up and
   shouted expletives. remained awake.
   - discussed with HCP who agreed with [**Hospital **] rehab macu
   - creatinine bumped. did not effectively diurese. stopped lasix
   - pulled out IV and foley again
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-1-27**] 12:10 AM
   Metronidazole - [**2189-1-28**] 12:30 AM
   Cefipime - [**2189-1-28**] 02:30 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2189-1-27**] 08:15 PM
   Heparin Sodium (Prophylaxis) - [**2189-1-28**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Not wanting to answer questions.
   Flowsheet Data as of  [**2189-1-28**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36
C (96.8
   HR: 101 (89 - 104) bpm
   BP: 137/60(81) {79/21(42) - 137/100(107)} mmHg
   RR: 14 (14 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.3 kg (admission): 79 kg
   Height: 60 Inch
             Total In:
                                                                    791 mL
                                                                    186 mL
   PO:
                                                                     90 mL
             TF:
   IVF:
                                                                    701 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                     58 mL
   Urine:
                                                                    835 mL
                                                                     58 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -44 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.35/70/72/32/9
   PaO2 / FiO2: 103
   Physical Examination
   GEN: Somnolent, arrouses to tactile stimulus, looks comfortable in NAD
   CV: RRR, no RMG, JVP not elevated
   PULM: CTAB, no WRR anteriorly
   ABD: Soft, NTND, +BS
   EXT: 1+ edema of UE and LE bl
   Labs / Radiology
   207 K/uL
   9.5 g/dL
   162 mg/dL
   1.9 mg/dL
   32 mEq/L
   4.8 mEq/L
   44 mg/dL
   98 mEq/L
   140 mEq/L
   32.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2189-1-25**]  12:00 PM
                             [**2189-1-25**]  03:02 PM
                             [**2189-1-25**]  06:21 PM
                             [**2189-1-25**]  08:00 PM
                             [**2189-1-25**]  09:59 PM
                             [**2189-1-26**]  05:05 AM
                             [**2189-1-27**]  03:54 AM
                             [**2189-1-27**]  06:30 PM
                             [**2189-1-27**]  07:42 PM
                             [**2189-1-28**]  03:32 AM
   WBC
   10.9
   10.5
   6.5
   Hct
   33.3
   36.5
   32.1
   Plt
   [**Telephone/Fax (3) 11168**]
   Cr
   1.1
   1.2
   1.3
   1.7
   1.9
   TCO2
   42
   40
   40
   Glucose
   181
   196
   247
   [**Telephone/Fax (3) 11169**]
   198
   162
   Other labs: PT / PTT / INR:12.6/26.3/1.1, CK / CKMB /
   Troponin-T:45/3/0.09, Differential-Neuts:84.9 %, Lymph:7.4 %, Mono:5.6
   %, Eos:2.1 %, Lactic Acid:0.6 mmol/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.4 mg/dL
   Imaging: CXR AP [**2189-1-28**]
   Marked cardiac enlargement is present, however, rather stable when
   compared with the next previous study. Generally widened thoracic aorta
   with rather advanced wall calcifications but no local contour
   abnormalities. Surgical
   clips in the right upper mediastinum as before. Right-sided moderate
   amount
   of pleural effusion blunting the right pleural sinus remains
   unchanged.
   Linear basal atelectases bilaterally, but no new parenchymal
   abnormalities are
   identified. No pneumothorax has developed.
   IMPRESSION: Stable findings on portable chest examination consistent
   with marked cardiac enlargement and chronic CHF. No acute interval
   change.
   Microbiology: C diff [**2189-1-27**] POSITIVE
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), BREAST
 HYPOXEMIA
 DEPRESSION
 DELIRIUM / CONFUSION
 HYPERTENSION, BENIGN
 HYPOGLYCEMIA
   78 yo F with h/o COPD, lung ca s/p lobectomy, breast CA s/p lumpectomy
   who presented with altered mental status and new hypercarbic/hypoxic
   respiratory failure.
   .
   # Hypercarbic/Hypoxic Respiratory Failure: Multifactorial, likely [**1-6**]
   CHF, PNA and COPD exacerbation (at baseline patient is a CO2 retainer).
   Is probably intravascularly dry but extravascularly wet and failing IV
   lasix boluses and drip. No evidence of PE on CTA. Ideally would be a
   candidate for milrinone and more aggressive diuresis, however, this
   would not be consistent with patient
s goals of care.
   - No escalation of care per HCP
   - Repeat BNP
   - Will stop lasix boluses given hypotension and ARF
   - Standing short-acting nebs
   - Cont vanc/cefepime for empiric coverage of HCAP for 8 day course
   (start date [**2189-1-23**] until [**2189-1-31**])
   - Wean O2 (on 2L nc at home)
   - Strict I
s, but without foley will have to rely on daily weights
   - Morphine for dyspnea
   - Appreciate geriatrics recommendations
   - Call pt out to [**Hospital **] [**Hospital **] Rehab as aligns with patient and family
   goals of care
   - Will sign out to MACU to not rehospitalize under any circumstance and
   will eventually be transitioned to official CMO pending her course
   # C diff:
   - Treat w/ iv flagyl for a course of two weeks after abx for HAP end
   # Unresponsiveness: Ruled out hypercarbia. Possibly secondary to being
   hard of hearing and a deep sleeper exacerbated by morphine. Consider
   volitional unresponsiveness given mental illness. TSH wnl.
   - Monitor mental status
   .
   # CHF: Acute on chronic diastolic CHF. Echo w/ RHF and pulm HTN, and
   evidence of ascites on abdominal US. Pt is probably intravascularly dry
   but extravascularly wet.
   - holding ace-I given elevated Cr
   - continue statin
   - DC lasix altogether given no effective diuresis with it and worsening
   prenal ARF
   - Strict I
s, daily weights
   .
   # Delirium on dementia/Depression/Anxiety: Improved for time being. Pt
   with significant sundowning.  Delirium likely toxic metabolic,
   infectious over chronic dementia. Does have intermittent SI. CT head
   w/o acute process. Unfortunately, pt can become occasionally
   belligerent, agitated and has not responded to zyprexa 5mg prn x 2, nor
   to haldol 2mg x 2, therefore would prefer using higher doses during
   acute episodes with daily QTC monitoring.
   - Continue antibiotics for pna
   - Daily EKGs to monitor QTc
   - Continue olanzapine to 2.5mg PO TID per psych recs
   - Holding ativan and avoiding benzos/anticholinergics
   - Continue restraints - Appreciate psych recs
    .
   # ARF: likely from intravascular volume depletion from lasix. Also
   received contrast for CTA
   - Hold lasix
   - Allow her to reequilibrate on her own
   - Would avoid fluids as would surely worsen her hypoxia
   # Hypernatremia: Resolved.
   # Urethral trauma s/p several removals of foley with balloon inflation.
   Has pulled out this foley.
   - No more foley
   .
   # Hypoglycemia/Type II DM with complications
 Improved. Was on lantus
   70units at NH.
   - hold long acting insulin for now, cover with humalog sliding scale
   - can likely restart lantus after acute process
   .
   # Hypertension:
   - cont dilt
   - hold Lisinopril given ARF
   - reduce asa from 325mg to 81mg PO Daily
   .
   # Right Breast Mass and skin changes - concerning for inflammatory
   breast ca vs breast CA relapse. Did have right cyst on [**Last Name (un) **] from [**5-13**]
   with plan for 6 month f/u given comorbidities
   - once stable obtain diagnostic mammography
   ICU Care
   Nutrition: Cardiac healthy
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-26**] 03:31 AM
   Prophylaxis:
   DVT: HSC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Will be transferred to [**Hospital **] Rehab MACU with plan for no
   rehospitalization

2189-01-28 11:06:00 Physician Attending Progress Note
Chief Complaint: altered MS, acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Geriatrics consult
   C. Diff now on flagyl
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-1-27**] 12:10 AM
   Cefipime - [**2189-1-28**] 02:30 AM
   Metronidazole - [**2189-1-28**] 08:19 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2189-1-27**] 08:15 PM
   Heparin Sodium (Prophylaxis) - [**2189-1-28**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: patient pulled foley again
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2189-1-28**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 98 (89 - 104) bpm
   BP: 92/42(54) {79/21(42) - 137/93(97)} mmHg
   RR: 16 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.3 kg (admission): 79 kg
   Height: 60 Inch
             Total In:
                                                                    791 mL
                                                                    304 mL
   PO:
                                                                     90 mL
             TF:
   IVF:
                                                                    701 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                    835 mL
                                                                     58 mL
   Urine:
                                                                    835 mL
                                                                     58 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -44 mL
                                                                    246 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.35/70/72/32/9
   PaO2 / FiO2: 103
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally [**12-7**] way up,
   Diminished: R > L base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed, doesn't want to open eyes this morning,
   Labs / Radiology
   9.5 g/dL
   207 K/uL
   162 mg/dL
   1.9 mg/dL
   32 mEq/L
   4.8 mEq/L
   44 mg/dL
   98 mEq/L
   140 mEq/L
   32.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2189-1-25**]  12:00 PM
                             [**2189-1-25**]  03:02 PM
                             [**2189-1-25**]  06:21 PM
                             [**2189-1-25**]  08:00 PM
                             [**2189-1-25**]  09:59 PM
                             [**2189-1-26**]  05:05 AM
                             [**2189-1-27**]  03:54 AM
                             [**2189-1-27**]  06:30 PM
                             [**2189-1-27**]  07:42 PM
                             [**2189-1-28**]  03:32 AM
   WBC
   10.9
   10.5
   6.5
   Hct
   33.3
   36.5
   32.1
   Plt
   [**Telephone/Fax (3) 11168**]
   Cr
   1.1
   1.2
   1.3
   1.7
   1.9
   TCO2
   42
   40
   40
   Glucose
   181
   196
   247
   [**Telephone/Fax (3) 11169**]
   198
   162
   Other labs: PT / PTT / INR:12.6/26.3/1.1, CK / CKMB /
   Troponin-T:45/3/0.09, Differential-Neuts:84.9 %, Lymph:7.4 %, Mono:5.6
   %, Eos:2.1 %, Lactic Acid:0.6 mmol/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.4 mg/dL
   Assessment and Plan
 HYPOXEMIA:  CHF and HAP.  Completing course of antibiotics for the
   latter.  Have needed to hold lasix in setting of rising Cr.
 ACUTE RENAL FAILURE:  Likely prerenal given attempts to diurese,
   holding lasix.  Will not actively rehydrate but encourage po intake as
   desired by the patient given her goals of care.
 C. DIFF:  On flagyl.
 DEPRESSION:  Continue current management.
 DELIRIUM / CONFUSION:  Patient intermittently not responding to voice
   or stimuli except noxious stimuli albeit shortly after will be very
   alert and agitated - doesn't want to interact.
 DISPOSITION:  Appreciate geriatrics consult.  Plan to transfer to HRC
   MACU later today with plans to not be rehospitalized as per expressed
   goals of care by HCP.
   ICU [**Name2 (NI) 232**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2189-1-27**] 06:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to other facility
   Total time spent: 30 minutes